US04157399
2-(4-chlorophenyl)-3-di-n-butylaminobenzo(b)-thiophene.
Proceed as in Example 31 starting from the N,N-di(n-butyl) [α-phenylthioα-(4-chlorophenyl] acetamide (yellow oil boiling between 180° and 185° at 0.05 torr). The duration of reaction is 9 hours. 50% of theory of colourless prisms melting between 48° and 50° (methanol) are obtained.

reactant | α-phenylthioα-(4-chlorophenyl] acetamide | C1(=CC=CC=C1)SC(C(=O)N)C1=CC=C(C=C1)Cl | C14H12ClNOS
solvent | methanol | CO | CH4O
product | 2-(4-chlorophenyl)-3-di-n-butylaminobenzo(b)-thiophene | ClC1=CC=C(C=C1)C1=C(C2=C(S1)C=CC=C2)N(CCCC)CCCC | C22H26ClNS
